US05236952
A suspension of 6.35 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone is treated with 4.68 g of 1-(3-quinolinyl)-2-thiourea in 150 ml of n-butanol and heated to boiling under reflux for 3 hours. After cooling to room temperature the crystals are filtered under suction and recrystallized from n-butanol. There is obtained 3-nitro-5-[2-(3-quinolinylamino)-4-thiazolyl]pyrocatechol hydrobromide of m.p. >300°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 6.35 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 1-(3-quinolinyl)-2-thiourea | 4.68 g | N1=CC(=CC2=CC=CC=C12)NC(=S)N | C10H9N3S
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 3-nitro-5-[2-(3-quinolinylamino)-4-thiazolyl]pyrocatechol hydrobromide | Br.[N+](=O)([O-])C1=C(C(O)=CC(=C1)C=1N=C(SC1)NC=1C=NC2=CC=CC=C2C1)O | InChI=1S/C18H12N4O4S.BrH/c23-16-7-11(6-15(17(16)24)22(25)26)14-9-27-18(21-14)20-12-5-10-3-1-2-4-13(10)19-8-12;/h1-9,23-24H,(H,20,21);1H
